US07569578B2
(±)-tert-Butyl 1-(1-(3,5-difluorobenzyl)-5-bromo-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate
tert-Butyl 1-(1-(3,5-difluorobenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate (72.0 mg, 0.12 mmol) was dissolved in methylene chloride (3.0 mL) and cooled to −78° C. To this was added N-bromosuccinimide (18.3 mg, 0.11 mmol) and the mixture allowed to stir at −78° C. for 30 min. After warming to room temperature, the solvent was removed and the residue purified by column chromatography to afford 30 mg (40%). 1H-NMR (CD3OD, 300 MHz) δ −0.06 (s, 9H), 0.89 (m, 2H), 1.33 (s, 9H), 2.44 (s, 3H), 3.15-3.25 (m, 1H), 3.57-3.66 (m, 2H), 4.80-5.09 (m, 2H), 6.26 (m, 2H), 6.47-6.66 (m, 2H), 7.12 (s, 1H), 7.20 (s, 1H), 7.91 (s, 1H). Mass spec.: 678.3 (MH)+.

reactant | tert-Butyl 1-(1-(3,5-difluorobenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate | 0.12 mmol, 72.0 mg | FC=1C=C(CN2C(=NC=C2)C(CC2=CC3=CN(N=C3C(=C2)C)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O)C=C(C1)F | C31H41F2N5O3Si
reactant | N-bromosuccinimide | 0.11 mmol, 18.3 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
product | (±)-tert-Butyl 1-(1-(3,5-difluorobenzyl)-5-bromo-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate | FC=1C=C(CN2C(=NC=C2Br)C(CC2=CC3=CN(N=C3C(=C2)C)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O)C=C(C1)F | C31H40BrF2N5O3Si
